Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with PMHx A. fib (s/p cardioversion 
___, HTN, HLD, who presents with palpitations and shortness of 
breath. 

Patient has a history of afib incidentally noted in ___ s/p 
cardioversion with return to sinus. He was seen in clinic last 
week, at which point he was noted to be in afib again but 
otherwise stable. He discussed anticoagulation with ___ with 
MD but pt deferred it. Over Labor ___ weekend, he drank more 
alcohol and coffee than usual. Today he has had at least 4 cups 
of coffee. At the ___ game today, he started feeling 
palpitations and became diaphoretic and lightheaded. No 
shortness of breath or chest pain. No fever/chills, cough, 
abdominal pain, vomiting or diarrhea, 
dysuria/hematuria/frequency. 

In the ED...  
- Initial vitals: 98.6, 103, 154/88, 16, 94% RA
- Exam notable for:  -Rapid (~105), irregular. Lungs CTAB. No 
JVD
___ Swelling. 
- Labs/studies notable for:  
 WBC 8.3, HGB 15.6, PLT 175
 BUN 12, Cr 0.8, BMP WNL  
 trop neg x1
 INR 1 
 UA clean 
 CXR: No acute cardiopulmonary process.
 EKG shows AFib, rate 105, LVH w/ lateral ST depressions 
- Patient was given:  nothing 
- Vitals on transfer:  92, 124/95, 18, 95% RA
 
On the floor, patient reports that he feels better. His 
palpitations are improved though still present, and his 
shortness of breath and lightheadedness are resolved. He denies 
any chest pain at any point. He reports leg swelling 
occasionally when he takes a flight but otherwise denies. He 
denies any fevers, chills, cough, abdominal pain, nausea, 
vomiting, diarrhea, black/bloody stool, pain with urinating. 
 
 
Past Medical History:
Atrial fibrillation
Hypercholesterolemia
Hypertension
Basal Cell Cancer, back s/p excision
Melanoma, s/p excision ___
Hyperglycemia
Adenomatous polyp of colon
 
Social History:
___
Family History:
Father died at age ___ had history of CAD, DM
Mother with HTN, skin cancer
Brother with HTN, HLD, asthma
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
VITALS:  24 HR Data (last updated ___ @ 217)
    Temp: 98.3 (Tm 98.3), BP: 141/91, HR: 82, RR: 18, O2 sat:
96%, O2 delivery: Ra, Wt: 174.9 lb/79.33 kg  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva pink MMM
NECK: Supple, JVP not elevated  
CARDIAC: irregular rhythm, no M/R/G
LUNGS: normal WOB, CTAB
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: WWP, no ___  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 217)
    Temp: 98.3 (Tm 98.3), BP: 141/91, HR: 82, RR: 18, O2 sat:
96%, O2 delivery: Ra, Wt: 174.9 lb/79.33 kg   
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva pink MMM
NECK: Supple, JVP not elevated  
CARDIAC: irregular rhythm, soft systolic murmur appreciated 
LUNGS: normal WOB, CTAB
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: WWP, no ___  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION/DISCHARGE LABS
===========================
___ 10:24PM BLOOD WBC-8.3 RBC-4.82 Hgb-15.6 Hct-44.7 MCV-93 
MCH-32.4* MCHC-34.9 RDW-13.1 RDWSD-44.2 Plt ___
___ 10:24PM BLOOD Neuts-63.3 ___ Monos-11.8 
Eos-0.7* Baso-0.5 Im ___ AbsNeut-5.25 AbsLymp-1.95 
AbsMono-0.98* AbsEos-0.06 AbsBaso-0.04
___ 10:33PM BLOOD ___ PTT-26.8 ___
___ 10:24PM BLOOD Glucose-121* UreaN-12 Creat-0.8 Na-141 
K-3.6 Cl-98 HCO3-29 AnGap-14
___ 10:24PM BLOOD CK(CPK)-137
___ 10:24PM BLOOD cTropnT-<0.01
___ 12:50PM BLOOD cTropnT-<0.01
___ 10:24PM BLOOD Calcium-10.0 Phos-3.7 Mg-2.2 Cholest-167
___ 10:24PM BLOOD Triglyc-97 HDL-88 CHOL/HD-1.9 LDLcalc-60
___ 10:24PM BLOOD TSH-3.3
___ 05:59AM BLOOD %HbA1c-5.3 eAG-105

IMAGING
============
CXR: No acute cardiopulmonary process.

TTE ___
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. The interatrial septum is 
prominently bowed towards the right atrium suggestive of high 
left atrial pressure. There is no evidence for an atrial septal 
defect by 2D/color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is focal non-obstructive hypertrophy of the 
basal septum with a normal cavity size. There is mild global 
left ventricular hypokinesis. Quantitative biplane left 
ventricular ejection fraction is 44 % (normal 54-73%). There is 
no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Tissue Doppler suggests a 
normal left ventricular filling pressure (PCWP less than 
12mmHg). Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus is mildly dilated with normal 
ascending aorta diameter for gender. The aortic arch diameter is 
normal with a normal descending aorta diameter. There is no 
evidence for an aortic arch coarctation. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is no aortic regurgitation. The mitral valve 
leaflets are mildly thickend and myxomatous with mild posterior 
leaflet systolic prolapse. There is an eccentric, anteriorly 
directed jet of mild to moderate [___] mitral regurgitation. 
Color flow Doppler may overestimate the volumetric severity of 
mitral regurgitation when the regurgitant flow is confined to 
late systole. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
mild [1+] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

IMPRESSION: Mild basal septal hypertrophy with normal cavity 
size and mild global systolic dysfunction. Normal right 
ventricular cavity size and systolic function. Mild posterior 
mitral valve prolapse with mild to moderate anteriorly directed 
late systolic mitral regurgitation. Mild tricuspid 
regurgitation. Normal estimated pulmonary artery systolic 
pressure.
 
Brief Hospital Course:
___ with PMHx A. fib (s/p cardioversion ___, HTN, HLD, who 
presents with palpitations and shortness of breath, found to be 
in atrial fibrillation, with TTE showing new reduction in EF to 
44%. He had no clinical signs of heart failure while he was 
admitted. He was discharged on anticoagulation to discuss DCCV 
with his outpatient cardiologist. 

TRANSITIONAL ISSUES
========================
[] Amlodipine stopped, losartan restarted given new reduced EF. 
Patient reports he did not tolerate an acei in the past due to 
cough. Up-titrate losartan as outpatient if needed for BP 
control. 
[] Started on metop XL 25 for rate control. Titrate as needed. 
[] Patient should have outpatient DCCV for his a.fib, to be 
arranged by his outpatient cardiologist. 
[] Please check BMP at PCP ___ since he was just started 
on an ___. 
[] Consider additional workup including ischemic workup as 
outpatient if not done already for workup of his heart failure. 

# CODE: Full, presumed 
# CONTACT: HCP: ___, WIFE, ___

ACUTE ISSUES: 
=============
# Atrial fibrillation (CHADSVASC 2) 
Patient has a prior history of afib in ___ s/p successful 
cardioversion. He presented with palpitations and lightheadness, 
found to be in afib with rates in 100s. Rates subsequently 
improved to ___ in ED without further intervention. Acute 
trigger
unclear but possibly recent significant alcohol/caffeine intake 
per patient. No signs/symptoms to suggest active infection. 
Lower suspicion for ACS given negative troponin x2. No evidence 
of CHF exacerbation. CHADSVASC was 2 (HTN and CHF) and was 
started on rivaroxaban 20mg. Attempted to coordinate inpatient 
TEE/DCCV but was unable to perform before the weekend. Since the 
patient was not very symptomatic he favored having the DCCV done 
as an outpatient with his cardiologist after being on a/c for 
one month. 

#HF with intermediate EF. TTE showed mild basal septal 
hypertrophy with normal cavity size and mild global systolic 
dysfunction wit EF of 44%, down from 55% in ___. Normal right 
ventricular cavity size and systolic function. Thought to be 
tachy-mediated potentially in the setting of recent afib with 
uncontrolled rates. He did not have any clinical signs of heart 
failure. He was started on an ___. He reports he was not able to 
tolerate an acei in the past due to cough. 

CHRONIC ISSUES: 
===============
# HTN. Continued home amlodipine, HCTZ but at discharge his 
amlodipine was changed to losartan 25mg. 

# HLD. Continued home simvastatin 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Rivaroxaban 20 mg PO DINNER  
4.  Aspirin 81 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation 
Hypertension 
Hyperlipidemia 
Chronic HF with intermediate EF 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were found to have atrial fibrillation. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were started on a blood thinner. 
- We tried to preform a cardioversion while you were in the 
hospital but we were unable to make this happen before the 
weekend. Since you are not having too many symptoms we felt it 
was safe to have you ___ with your cardiologist to have 
this done as an outpatient
- We performed an ultrasound of your heart and showed that your 
heart is not pumping well. We changed some of your medications 
for blood pressure to help with the heart. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Please take your medications and go to your follow up 
appointments as described in this discharge summary.
- Please continue to take your rivaroxaban every day up until 
your cardioversion. You cannot miss any doses. You need to take 
it with a large meal so we recommend you take it each night with 
dinner. 
- STOP taking your amlodipine. Instead you will take losartan to 
treat your high blood pressure. 
- Weigh yourself first thing in the morning at least a few times 
a week. If you notice you are gaining weight and accumulating 
fluid please call your cardiologist. 
- If you develop leg swelling or shortness of breath call your 
cardiologist. 
- If you experience any of the danger signs listed below, please 
call your primary care doctor or go to the emergency department 
immediately.  

We wish you the best!  
Sincerely,  
Your ___ Team 
 
Followup Instructions:
___